US06331538B1
N-Benzyloxy-2,6-dichloro-5-fluoro-3-pyridinecarboxamide
To a suspension of 2,6-dichloro-5-fluoro-3-pyridinecarboxylic acid (20.00 g, 95.2 mmol) and a few drops of DMF in dichloromethane (200 mL) was added oxalyl chloride (24.6 mL, 0.282 mol) dropwise. The mixture was stirred at room temperature until evolution of gas ceased, and the reaction mixture was evaporated under reduced pressure to remove excess of the reagent. The residue was dissolved in dichloromethane (200 mL) and O-benzylhydroxylamine hydrochloride (16.71 g, 0.105 mol) in dichloromethane (200 mL) and triethylamine (15.90 mL, 0.114 mmol) were added dropwise at 0° C. The mixture was stirred at room temperature for 3 hours, diluted with ethyl acetate (100 mL), washed with saturated aqueous sodium hydrogen carbonate, water, and dried on sodium sulfate. The solid residue was recrystallized from chloroform to give 14.87 g of the title compound as solid, mp 176-177° C.

reactant | 2,6-dichloro-5-fluoro-3-pyridinecarboxylic acid | 95.2 mmol, 20.00 g | ClC1=NC(=C(C=C1C(=O)O)F)Cl | C6H2Cl2FNO2
reactant | oxalyl chloride | 0.282 mol, 24.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-benzylhydroxylamine hydrochloride | 0.105 mol, 16.71 g | Cl.C(C1=CC=CC=C1)ON
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | triethylamine | 0.114 mmol, 15.90 mL | C(C)N(CC)CC | C6H15N
product | N-Benzyloxy-2,6-dichloro-5-fluoro-3-pyridinecarboxamide | 14.87 g | C(C1=CC=CC=C1)ONC(=O)C=1C(=NC(=C(C1)F)Cl)Cl | C13H9Cl2FN2O2
